US07015218B1
N-[3-Cyano-4-(4-morpholinopiperidin-1-yl) phenyl]-3-methyl-1-(2-phenylethyl) pyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 3-methyl-1-(2-phenylethyl)pyrazole-4-carboxylic acid (0.64 g) and 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile (0.8 g), the title compound (0.8 g) was obtained, melting point: 188° C.

reactant | 3-methyl-1-(2-phenylethyl)pyrazole-4-carboxylic acid | 0.64 g | CC1=NN(C=C1C(=O)O)CCC1=CC=CC=C1 | C13H14N2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile | 0.8 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | N-[3-Cyano-4-(4-morpholinopiperidin-1-yl) phenyl]-3-methyl-1-(2-phenylethyl) pyrazole-4-carboxamide | 0.8 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)N1CCOCC1)NC(=O)C=1C(=NN(C1)CCC1=CC=CC=C1)C | C29H34N6O2
